US08492582B2
A 2.0 mol/L aqueous solution of sodium hydroxide (0.37 mL) was added to a solution mixture of tert-butyl 2-(5-(2-acetoxyethyl)-2-(benzyloxy)benzamido)-4-phenylbenzoate (0.38 g) in methanol (1.9 mL) and dioxane (1.9 mL), followed by stirring at room temperature for 2 hours. Acetic acid (0.012 mL) was added to the reaction mixture. The solvent was evaporated under reduced pressure, and a saturated aqueous solution of sodium bicarbonate and ethyl acetate were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain 0.35 g of tert-butyl 2-(2-(benzyloxy)-5-(2-hydroxyethyl)benzamido)-4-phenylbenzoate as a white solid.

reactant | sodium hydroxide | 0.37 mL | [OH-].[Na+]
reactant | tert-butyl 2-(5-(2-acetoxyethyl)-2-(benzyloxy)benzamido)-4-phenylbenzoate | 0.38 g | C(C)(=O)OCCC=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)OCC1=CC=CC=C1 | C35H35NO6
reactant | Acetic acid | 0.012 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 1.9 mL | CO | CH4O
solvent | dioxane | 1.9 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 2-(2-(benzyloxy)-5-(2-hydroxyethyl)benzamido)-4-phenylbenzoate | 0.35 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)CCO | C33H33NO5
